US06399629B1
(D) 6-Benzylquinoline-3-Carboxylic Acid
A solution of ethyl 6-benzylquinoline-3-carboxylate (C, 1.85 g) and 1 N sodium hydroxide solution (7 mL) in ethanol (10 mL) was refluxed for 1.5 hr. After the solvents were removed in vacuo, the residue was diluted with water and washed with ethyl ether. The aqueous layer was acidified with 1 N hydrochloric acid, and the precipitate was collected by filtration to afford the title compound (1.10 g) as a pale yellow powder: mp 203-205° C.; 1H NMR (400 MHz, CD3OD) δ 4.22 (s, 2H), 7.10-7.38 (m, 5H), 7.62-7.85 (m, 2H), 8.03 (d, J=8.6 Hz, 1H), 8.89 (s, 1H), and 9.33 (d, J=1.9 Hz, 1H).

reactant | ethyl 6-benzylquinoline-3-carboxylate | 1.85 g | C(C1=CC=CC=C1)C=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C19H17NO2
reactant | sodium hydroxide | 1 N, 7 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Benzylquinoline-3-Carboxylic Acid | 1.10 g | C(C1=CC=CC=C1)C=1C=C2C=C(C=NC2=CC1)C(=O)O | C17H13NO2
